US07230098B2
To a stirred solution of 4-[6-amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-benzoic acid methyl ester (2.5 g, 6 mmol) in warm isopropanol (300 mL) was added H2O (100 mL) containing LiOH (0.74 g, 31 mol). The reaction immediately turned orange and was left to stir at room temperature for 18 hr. The reaction was diluted with EtOAc (200 mL) and brine (50 mL). The organic was separated off and the aqueous was extracted with EtOAc (2×50 mL). The organic layers were combined and washed with brine (2×25 mL), dried with Na2SO4 and concentrated to dryness under vacuum to yield 4-[6-amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-benzoic acid (2.4 g, 6 mmol, 99%) as an off-white solid.

reactant | 4-[6-amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-benzoic acid methyl ester | 6 mmol, 2.5 g | COC(C1=CC=C(C=C1)C=1C=NC(=C(C1)OCC1=C(C(=CC=C1F)F)Cl)N)=O | C20H15ClF2N2O3
reactant | H2O | 100 mL | O | H2O
reactant | LiOH | 31 mol, 0.74 g | [Li+].[OH-]
solvent | isopropanol | 300 mL | C(C)(C)O | C3H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 4-[6-amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-benzoic acid | 6 mmol, 2.4 g, 99% | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OCC1=C(C(=CC=C1F)F)Cl | C19H13ClF2N2O3
